US03985758
In 6 ml. of toluene were dissolved 2.0 g. of 2,6-dimethyl-4-(3'-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-β-chloroethyl ester 5-methyl ester and 1.3 g. of N-methylbenzylamine and the solution thus formed was refluxed for 5 hours under heating. After the reaction was over, the reaction mixture was mixed with 30 ml. of chloroform and 10 ml. of water and then the organic layer thus formed was separated and washed with 10 ml. of 10% hydrochloric acid and then with water. The organic solvent solution thus obtained was dried over anhydrous magnesium sulfate and then the solvent was distilled away under reduced pressure. The residue was added to 10 ml. of ethyl acetate and the mixture was stirred under cooling, whereby 2,6-dimethyl-4-(3'-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-β-(N-benzyl-N-methylamino)ethyl ester 5-methyl ester hydrochloride was crystallized. The amount of the product thus obtained was 1.6 g. The product recrystallized from a methanol-acetone mixture had a melting point of 180°-181° C.

reactant | 2,6-dimethyl-4-(3'-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-β-chloroethyl ester 5-methyl ester | COC(=O)C=1C(C(=C(NC1C)C)C(=O)OCCCl)C1=CC(=CC=C1)[N+](=O)[O-] | C18H19ClN2O6
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | N-methylbenzylamine | CNCC1=CC=CC=C1 | C8H11N
